US07256178B2
(1) (8E,12E,14E)-7-acetoxy-3,21-bis(diethylisopropylsiloxy)-16-hydroxy-6,10,12,16,20-pentamethyl-18,19-epoxytricosa-8,12,14-trien-11-olide
A solution of (8E,12E,14E)-7-acetoxy-3,16,21-trihydroxy-6,10,12,16,20-pentamethyl-18,19-epoxytricosa-8,12,14-trien-11-olide (177 mg, 0.33 mmol) and imidazole (450 mg, 6.61 mmol) in methylene chloride (6 mL) was cooled to 5° C. A solution of diethylisopropylsilyl chloride (272 mg, 1.65 mmol) in methylene chloride (1.5 mL) was added dropwise to the reaction mixture, and the reaction mixture was stirred at room temperature for two hours. The reaction mixture was diluted with ethyl acetate, and then the organic layer was washed with water. The resulting organic layer was washed with brine dried over anhydrous magnesium sulfate, filtered and concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (Kanto silica gel 60N, 40 to 100 μm; ethyl acetate-hexane, 1:19->1:9->1:6->1:4) to obtain the title compound (242.9 mg, 93%) as a colorless oil.

reactant | (8E,12E,14E)-7-acetoxy-3,16,21-trihydroxy-6,10,12,16,20-pentamethyl-18,19-epoxytricosa-8,12,14-trien-11-olide | 0.33 mmol, 177 mg | C(C)(=O)OC\1C(CCC(CC(=O)OC(C(/C=C1)C)\C(=C\C=C\C(CC1C(C(C(CC)O)C)O1)(C)O)\C)O)C | C30H48O8
reactant | imidazole | 6.61 mmol, 450 mg | N1C=NC=C1 | C3H4N2
reactant | diethylisopropylsilyl chloride | 1.65 mmol, 272 mg | C(C)[Si](C(C)C)(CC)Cl | C7H17ClSi
solvent | methylene chloride | 6 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 1.5 mL | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (8E,12E,14E)-7-acetoxy-3,21-bis(diethylisopropylsiloxy)-16-hydroxy-6,10,12,16,20-pentamethyl-18,19-epoxytricosa-8,12,14-trien-11-olide | 242.9 mg, 93% | C(C)(=O)OC\1C(CCC(CC(=O)OC(C(/C=C1)C)\C(=C\C=C\C(CC1C(C(C(CC)O[Si](C(C)C)(CC)CC)C)O1)(C)O)\C)O[Si](C(C)C)(CC)CC)C | C44H80O8Si2
